US07750154B2
N-cyclopropyl-4-methyl-3-[4-oxo-6-(4-propyl-1,4-diazepan-1-yl)quinazolin-3(4H)-yl]benzamide
1-Iodopropane (0.039 ml) was added to a stirred mixture of N-cyclopropyl-3-[6-(1,4-diazepan-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide (0.150 g) and potassium carbonate (0.199 g) in DMA (0.50 ml). The mixture was stirred at room temperature for 16 hours. The reaction mixture was poured into water (20 ml), the resulting solid was filtered and dried (magnesium sulphate) under vacuum at 40° C. There was thus obtained the title compound (0.098 g); NMR Spectrum: (DMSOd6) 0.54 (m, 2H), 0.68 (m, 2H), 0.80 (t, 3H), 1.39 (m, 2H), 1.87 (m, 2H), 2.11 (s, 3H), 2.36 (t, 2H), 2.49 (m, 2H), 2.72 (m, 2H), 2.84 (m, 1H), 3.56 (m, 4H), 7.23 (d, 1H), 7.36 (d, 1H), 7.50 (d, 1H), 7.58 (d, 1H), 7.79 (s, 1H), 7.87 (d, 1H), 7.95 (s, 1H), 8.41 (d, 1H); Mass Spectrum: M+H+ 460.

reactant | 1-Iodopropane | 0.039 ml | ICCC | C3H7I
reactant | N-cyclopropyl-3-[6-(1,4-diazepan-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide | 0.150 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCNCCC1)=O | C24H27N5O2
reactant | potassium carbonate | 0.199 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | DMA | 0.50 ml | CC(=O)N(C)C | C4H9NO
product | N-cyclopropyl-4-methyl-3-[4-oxo-6-(4-propyl-1,4-diazepan-1-yl)quinazolin-3(4H)-yl]benzamide | 0.098 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CCC1)CCC)=O | C27H33N5O2
